US07030141B2
Step 1: Pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester
DL-proline (10 g, 86.9 mmol) was dissolved in 120 mL of THF:H2O (2:1), added 87 mL of a 2M NaOH solution followed by Boc2O (24.6 g, 113 mmol). Stirred at ambient temperature overnight. Removed THF in vacuo, acidified water to pH 3 with citric acid, extracted twice with EtOAc, washed organics with water, brine, dried with MgSO4, filtered and concentrated to yield title compound as a white solid. (18.7 g, quant.) APCI (AP−): 214.1 (M−H)−.

reactant | DL-proline | 86.9 mmol, 10 g | N1C(C(=O)O)CCC1 | C5H9NO2
reactant | NaOH | 2M | [OH-].[Na+]
reactant | Boc2O | 113 mmol, 24.6 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | THF H2O | 120 mL | C1CCOC1.O
solvent | water | O | H2O
solvent | THF | C1CCOC1 | C4H8O
product | Pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester | C(C)(C)(C)OC(=O)N1C(CCC1)C(=O)O | C10H17NO4
